US07943607B2
1,1-Dimethylethyl 3-[({3-[(9-chloro-4-methyl-5-oxo-2,3,4,5-tetrahydro-1,4-benzoxazepin-8-yl)oxy]-5-[(3S)-tetrahydrofuran-3-yloxy]phenyl}carbonyl)amino]-1H-pyrazole-1-carboxylate
1-Chloro-N,N-2-trimethylpropenylamine (0.09 mL, 0.37 mmol) was added to a solution of 3-[(9-chloro-4-methyl-5-oxo-2,3,4,5-tetrahydro-1,4-benzoxazepin-8-yl)oxy]-5-[(3S)-tetrahydrofuran-3-yloxy]benzoic acid (145 mg, 0.34 mmol) in DCM (5 mL) and the reaction stirred at RT for 30-40 minutes. Pyridine (0.055 mL, 0.67 mmol) and 1,1-dimethylethyl 3-amino-1H-pyrazole-1-carboxylate (123 mg, 0.67 mmol) were added and the reaction stirred for 2 hours at RT. The reaction mixture was evaporated in vacuo and water (20 mL) added. The mixture was extracted with ethyl acetate (3×20 mL), washed with 1N hydrochloric acid (20 mL), a saturated solution of sodium hydrogen carbonate (20 mL), brine (20 mL), dried (MgSO4) and evaporated in vacuo. The crude product was chromatographed on silica, eluting with a gradient of 0-5% methanol in DCM, to give the desired compound as a pale yellow oil (107 mg). m/z 611 (M−H)−

reactant | 3-[(9-chloro-4-methyl-5-oxo-2,3,4,5-tetrahydro-1,4-benzoxazepin-8-yl)oxy]-5-[(3S)-tetrahydrofuran-3-yloxy]benzoic acid | 0.34 mmol, 145 mg | ClC1=C(C=CC=2C(N(CCOC21)C)=O)OC=2C=C(C(=O)O)C=C(C2)O[C@@H]2COCC2 | C21H20ClNO7
reactant | Pyridine | 0.67 mmol, 0.055 mL | N1=CC=CC=C1 | C5H5N
reactant | 1,1-dimethylethyl 3-amino-1H-pyrazole-1-carboxylate | 0.67 mmol, 123 mg | NC1=NN(C=C1)C(=O)OC(C)(C)C | C8H13N3O2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 1,1-Dimethylethyl 3-[({3-[(9-chloro-4-methyl-5-oxo-2,3,4,5-tetrahydro-1,4-benzoxazepin-8-yl)oxy]-5-[(3S)-tetrahydrofuran-3-yloxy]phenyl}carbonyl)amino]-1H-pyrazole-1-carboxylate | 107 mg | ClC1=C(C=CC=2C(N(CCOC21)C)=O)OC=2C=C(C=C(C2)O[C@@H]2COCC2)C(=O)NC2=NN(C=C2)C(=O)OC(C)(C)C | C29H31ClN4O8
